US07772226B2
(f) 7-(2-Chlorophenyl)-2-cyclobutyloxy-8-(piperazin-1-yl)-1,7-dihydropurin-6-one
8 mg of t-butyl 4-[7-(2-chlorophenyl)-1-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate was dissolved in 0.3 ml of N,N-dimethylformamide, and 0.05 ml of bromocyclobutane and 20 mg of potassium carbonate were added thereto. The mixture was stirred at 50° C. overnight. Ethyl acetate was added to the reaction mixture, and the mixture was washed with water. The organic layer was concentrated. The residue was dissolved in methanol, and 5 mg of sodium hydride was added to the solution. The mixture was stirred at room temperature for three hours. The reaction mixture was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The solvent was concentrated, and the residue was dissolved in trifluoroacetic acid. The mixture was concentrated, and the residue was purified by reverse-phase high performance liquid chromatography (using an acetonitrile-water mobile phase (containing 0.1% trifluoroacetic acid)) to give 1.89 mg of the title compound.

reactant | t-butyl 4-[7-(2-chlorophenyl)-1-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylate | 8 mg | ClC1=C(C=CC=C1)N1C(=NC=2NC(N(C(C12)=O)COC(C(C)(C)C)=O)=O)N1CCN(CC1)C(=O)OC(C)(C)C | C26H33ClN6O6
reactant | bromocyclobutane | 0.05 ml | BrC1CCC1 | C4H7Br
reactant | potassium carbonate | 20 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.3 ml | CN(C=O)C | C3H7NO
product | 7-(2-Chlorophenyl)-2-cyclobutyloxy-8-(piperazin-1-yl)-1,7-dihydropurin-6-one | 1.89 mg | ClC1=C(C=CC=C1)N1C(=NC=2N=C(NC(C12)=O)OC1CCC1)N1CCNCC1 | C19H21ClN6O2
